US05112817
Following the same procedure as in Example 23-(a), reaction and treatment were carried out using 2.25 g of 3-amino-4-methoxyphenol, 3.7 ml of glycerol and sodium m-nitrobenzene sulfonate to obtain 180 mg of 5-hydroxy-8-methoxyquinoline.

reactant | 3-amino-4-methoxyphenol | 2.25 g | NC=1C=C(C=CC1OC)O | C7H9NO2
reactant | sodium m-nitrobenzene sulfonate | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
solvent | glycerol | 3.7 ml | OCC(O)CO | C3H8O3
product | 5-hydroxy-8-methoxyquinoline | 180 mg | OC1=C2C=CC=NC2=C(C=C1)OC | C10H9NO2
